US04968702
3-Amino-6-chloro-2-(4-iodophenyl)-4-quinolinecarboxylic acid
To a stirred suspension of 4.17 g of 5-chloroisatin in 40 ml of water was added a solution of 5.15 g of sodium hydroxide in 18 ml of water. The solution was heated to 85° C. and a solution of 9.8 g of 2-amino-1-(4-iodophenyl)ethanone hydrochloride in a mixture of 70 ml of ethanol and 30 ml of tetrahydrofuran and 130 ml of water was added dropwise over 2 hours. After the addition was complete, the solution was refluxed for an additional 30 minutes and then the ethanol and tetrahydrofuran were removed by distillation. The mixture was cooled to 20° C. and filtered through celite. The filtrate was acidified to pH 4 with acetic acid. The solid was filtered off, washed with water and dried, giving 6.5 g of the desired compound as a yellow solid, mp 243°-245° C.

reactant | 5-chloroisatin | 4.17 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | sodium hydroxide | 5.15 g | [OH-].[Na+]
reactant | 2-amino-1-(4-iodophenyl)ethanone hydrochloride | 9.8 g | Cl.NCC(=O)C1=CC=C(C=C1)I
solvent | water | 40 ml | O | H2O
solvent | water | 18 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 130 ml | O | H2O
product | 3-Amino-6-chloro-2-(4-iodophenyl)-4-quinolinecarboxylic acid | 6.5 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)Cl)C1=CC=C(C=C1)I | C16H10ClIN2O2
